US07291643B2
N-[4-(1-butyl-5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide
N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide (0.150 g, 0.54 mmol) was alkylated according to the procedure of Example 40 using potassium tert-butoxide (1.08 mL of a 1M solution, 1.08 mmol) and butyl iodide (0.066 mL, 0.50 mmol) to afford the title compound (0.10 g, 6%).

reactant | N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide | 0.54 mmol, 0.150 g | C(#N)C1=CC=C(N1)C1=CC=C(C=C1)NS(=O)(=O)CC | C13H13N3O2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | butyl iodide | 0.50 mmol, 0.066 mL | C(CCC)I | C4H9I
product | N-[4-(1-butyl-5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide | 0.10 g, 6% | C(CCC)N1C(=CC=C1C#N)C1=CC=C(C=C1)NS(=O)(=O)CC | C17H21N3O2S
